US09388177B2
azetidin-1-yl(4-bromo-3-methoxyphenyl)methanone
To a stirred solution of 4-bromo-3-methoxybenzoic acid (400 mg) in DMF (4.0 mL) was added potassium carbonate (720 mg), azetidine (148 mg) and TBTU (890 mg). The mixture was stirred at room temperature for 60 h. Water was added, the mixture was stirred for 15 minutes and the solvent was removed in vacuum. Water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum. Silica gel chromatography gave 370 mg of the title compound.

reactant | 4-bromo-3-methoxybenzoic acid | 400 mg | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | potassium carbonate | 720 mg | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 148 mg | N1CCC1 | C3H7N
reactant | TBTU | 890 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | azetidin-1-yl(4-bromo-3-methoxyphenyl)methanone | 370 mg | N1(CCC1)C(=O)C1=CC(=C(C=C1)Br)OC | C11H12BrNO2
